US08017637B2
55.3) 2.2′-[(methylimino)dibutane-4,1-diyl]bis(1H-isoindole-1.3(2H)-dione)
209 mg (0.9 mmol) of 2-[4-(methylamino)butyl]-1H-isoindole-1.3(2H)-dione is solubilized in 5 ml of tetrahydrofuran, then 385 μl (2.7 mmol; 3 equivalents) of triethylamine and 254 mg (0.9 mmol; 1 equivalent) of 2-(4-bromobutyl)-1H-isoindole-1.3(2H)-dione are added to the reaction mixture which is maintained for 25 minutes under microwaves at 165° C. The precipitate obtained is filtered and the filtrate concentrated under reduced pressure. The expected product is purified by chromatography on a silica column (eluent: dichloromethane/methanol: 95/5).

reactant | 2-[4-(methylamino)butyl]-1H-isoindole-1.3(2H)-dione | 0.9 mmol, 209 mg | CNCCCCN1C(C2=CC=CC=C2C1=O)=O | C13H16N2O2
reactant | triethylamine | 2.7 mmol, 385 μl, 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | 2-(4-bromobutyl)-1H-isoindole-1.3(2H)-dione | 0.9 mmol, 254 mg, 1 equivalent | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2.2′-[(methylimino)dibutane-4,1-diyl]bis(1H-isoindole-1.3(2H)-dione) | CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)CCCCN1C(C2=CC=CC=C2C1=O)=O | C25H27N3O4
